US05536721
1-Methyl-2,5-dichloroindole-3-carbaldehyde (45)
POCl3 (6 ml) was added dropwise to a mixture of dry DMF (5.9 ml) and dichloromethane (5.9 ml) kept at 0° C. 1-Methyl-5-chloro-1,3-dihydroindol-2-one (4.0 g) dissolved in dichloromethane (20 ml) and pyridine (2.9 ml) was added dropwise at 0° C. over a period of 30 min. Subsequent stirring at room temperature for 3h. The mixture was poured onto icewater (500 ml) neutralized with NaHCO3 whereafter the mixture was stirred overnight. The precipitate was filtered off, washed with water and dried. The crude material (4.45 g) was recrystallized from ethanol yielding 1.27 g (25.4%) of (45). M.p. 165°-167° C.

reactant | POCl3 | 6 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 5.9 ml | CN(C)C=O | C3H7NO
reactant | 1-Methyl-5-chloro-1,3-dihydroindol-2-one | 4.0 g | CN1C(CC2=CC(=CC=C12)Cl)=O | C9H8ClNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5.9 ml | ClCCl | CH2Cl2
solvent | pyridine | 2.9 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methyl-2,5-dichloroindole-3-carbaldehyde | CN1C(=C(C2=CC(=CC=C12)Cl)C=O)Cl | C10H7Cl2NO
